2170-10-27 07:46:00 Physician Resident Progress Note
Chief Complaint: Metastatic prostate CA, radiation cystitis,
   hypotension
   24 Hour Events:
 MULTI LUMEN - START [**2170-10-26**] 03:59 PM
 PICC LINE - STOP [**2170-10-26**] 06:19 PM
   - CVL placed and PICC line pulled
   - pt given 1U pRBC --> Hct 28.2
   - UA showed >1000 RBC
   - Pt started on hydrocort 50mg Q6
   - Micro 1 set only (coag neg staph)
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-10-26**] 05:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-10-27**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 97 (94 - 104) bpm
   BP: 117/57(75) {80/36(49) - 117/57(75)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,116 mL
                                                                    127 mL
   PO:
                                                                    335 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,406 mL
                                                                     77 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,900 mL
                                                                      0 mL
   Urine:
                                                                  3,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -784 mL
                                                                    127 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   GEN: Obese gentleman in NAD.
   HEENT: NCAT, EOMI, PERRL, positive scleral icterus, no epistaxis or
   rhinorrhea, MMM, OP Clear
   NECK: No JVD, carotid pulses brisk, no bruits, no cervical
   lymphadenopathy, trachea midline
   COR: RR, borderline sinus tachy, no M/G/R, normal S1 S2, radial pulses
   +2
   PULM: fine crackles at left base, no W/R/R
   ABD: Soft, distended, +BS, NTTP
   EXT: 3+ pitting edema bilaterally
   NEURO: alert, oriented to person, place, and time.  CN II
 XII grossly
   intact. Moves all 4 extremities spontaneously. Strength and sensation
   to soft touch intact grossly. Positive asterixis.
   SKIN: jaundice, no cyanosis, or gross dermatitis. Positive ecchymoses.
   Labs / Radiology
   30 K/uL
   8.8 g/dL
   116 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.2 mEq/L
   9 mg/dL
   108 mEq/L
   136 mEq/L
   24.9 %
   1.8 K/uL
        [image002.jpg]
                            [**2170-10-26**]  04:39 AM
                            [**2170-10-26**]  03:49 PM
                            [**2170-10-27**]  04:33 AM
   WBC
   1.7
   1.9
   1.8
   Hct
   22.5
   28.2
   24.9
   Plt
   36
   37
   30
   Cr
   0.4
   0.5
   0.5
   Glucose
   95
   125
   116
   Other labs: PT / PTT / INR:16.1/28.0/1.4, ALT / AST:118/245, Alk Phos /
   T Bili:1092/10.2, Differential-Neuts:76.0 %, Band:8.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, LDH:363 IU/L, Ca++:7.6 mg/dL, Mg++:1.5 mg/dL, PO4:2.9
   mg/dL
   Microbiology: Blood cultures ([**10-24**]):  Blood Culture, Routine
   (Preliminary):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET
   ONLY.
            SENSITIVITIES PERFORMED ON REQUEST..
      Anaerobic Bottle Gram Stain (Final [**2170-10-25**]):
         REPORTED BY PHONE TO [**First Name8 (NamePattern2) 6063**] [**Last Name (NamePattern1) **] [**2170-10-25**], 8:35PM.
         GRAM POSITIVE COCCI IN CLUSTERS.
   Assessment and Plan
   Mr. [**Known lastname 832**] is a 52 year old gentleman with metastatic prostate CA
   readmitted to the [**Hospital Unit Name 44**] for hypotension.
   .
   # Hypotension: Patient with stable BP overnight.  During last admission
   to [**Hospital Unit Name 44**], patient was intermitently hypotensive attributed to blood
   loss. On initial transfer, BP was fluid responsive. Uncertain etiology
   at this point, but differential includes hypovolemia from blood loss,
   sepsis, and adrenal insufficiency.  Hematocrit this AM at 24.9. Last
   transfused on [**10-24**] 1u PRBC. Hypotension unlikely to be secondary to
   blood loss given slow trend in hct.  He has blood cultures from [**10-24**]
   positive for coag negative staph, but [**1-12**] likely representing
   contamination.  He has not been febrile, tachycardic, or tachypneic,
   oso sepsis is unlikely.  Cosyntropic stimulation test 0.3->2.8.
   - Transfuse 1u PRBC.
   - Taper stress dose steroids
   - Follow-up cultures
   - On antibiotics --> vanco and pip/tazo, which can be held as positive
   blood cultures likely present contamination.
   - Monitor MAP, UOP, mentation and bolus as necessary
   .
   # Metastatic Prostate cancer: Patient's cancer has been refractory to
   all therapies thus far. Metastatic to bone now w/ liver lesions
   concerning for mets. Will slowly reintroduce home pain regimen of
   dilaudid, oxybutinin, pyridium, methadone, neurontin, ativan.
   - F/u recs of oncologist Dr. [**Last Name (STitle) 5889**]
   .
   # Leukopenia:  Longstanding, however worsened over the past 24hours
   concerning for worsening in the setting of bacteremia.  Diff added on
   to ensure not neutropenic, but still pending at this time.
   - f/u diff; calculate ANC
   .
   # Anemia/thromboyctopenia: Per onc, thought likely secondary to bony
   metastatic prostate cancer.
   - transfuse to hct goal > 25
   - transfuse plts goal > 20
   - will continue to monitor
   .
   # Radiation cystitis: Improved after urologic procedure with formalin.
   - continue to monitor hct as above, but again, hematuria markedly
   improved from previously.
   - cont oxybutinin
   - cont urojet
   .
   # Elevated liver function tests: likely due to liver mets.
   - repeat LFTs
   - cont lactulose
   .
   # OSA: Continue cpap at night.
   .
   # Chronic pain: Reports pain is currently adequately controlled.
   Continue methadone, IV morphine for breakthrough, gabapentin, and
   decadron.
   .
   # H/O DVT/PE: Not anticoagulation candidate, has IVC filter which was
   placed [**2168**].
   .
   # Depression: cont citalopram.
   .
   # Pressure Ulcer: Stage II Left ischial, continue duoderm and Allevyn
   foam dressing.
   .
   # FEN:  Regular, replete lytes prn.
   .
   # Access : LIJ, arterial line
   .
   # PPx: SCDs, PPI.
   .
   # Code:  Full, confirmed with his oncologist
   .
   # Dispo:  ICU level of care for now
   .
   # Comm:  [**Name (NI) 16**] (wife) [**Telephone/Fax (1) 5836**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-10-26**] 06:24 AM
   Multi Lumen - [**2170-10-26**] 03:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-10-27 11:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M with metastatic prostate CA, recently in [**Hospital Unit Name 44**] with hypovolemic
   shock related to significant GU bleeding from radiation cystitis; now
   he returns with hypotension to SBP of 70s.  During episode of
   hypotension, he was mentating well and showed no signs of
   hypoperfusion.  Simultaneously he developed positive blood cultures
   with GPCs and presumed to have septic shock.  He received a 2.5L bolus
   with improvement of his blood pressure and upon transfer initially he
   has SBP in 100-110.  However, during his course he has had two episodes
   of brief SBP to 80's and has had another 1.5L fluid resucitation.  An
   arterial line was placed for continued hemodynamic monitoring.
   24 Hour Events:
   Readmitted to [**Hospital Unit Name 44**] yesterday for hypotension.
   Transfused 1 unit PRBC.
   Hydrocortisone 50 mg q6h.
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-10-26**] 05:00 AM
   Vancomycin - [**2170-10-27**] 08:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Vancomycin 1000mg q12h
   Megace, Folic Acid, PPI
   Methadone, colace
   Gabapentin, Vitamin D, Celexa, Ditropan, Belladona opium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-10-27**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.3
   HR: 95 (94 - 102) bpm
   BP: 98/43(59) {80/36(49) - 117/57(75)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  3,116 mL
                                                                    816 mL
   PO:
                                                                    335 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  2,406 mL
                                                                    431 mL
   Blood products:
                                                                    375 mL
                                                                     85 mL
   Total out:
                                                                  3,900 mL
                                                                      0 mL
   Urine:
                                                                  3,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -784 mL
                                                                    816 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : fine at bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   30 K/uL
   116 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.2 mEq/L
   9 mg/dL
   108 mEq/L
   136 mEq/L
   24.9 %
   1.8 K/uL
        [image002.jpg]
                            [**2170-10-26**]  04:39 AM
                            [**2170-10-26**]  03:49 PM
                            [**2170-10-27**]  04:33 AM
   WBC
   1.7
   1.9
   1.8
   Hct
   22.5
   28.2
   24.9
   Plt
   36
   37
   30
   Cr
   0.4
   0.5
   0.5
   Glucose
   95
   125
   116
   Other labs: PT / PTT / INR:16.1/28.0/1.4, ALT / AST:118/245, Alk Phos /
   T Bili:1092/10.2, Differential-Neuts:76.0 %, Band:8.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, LDH:363 IU/L, Ca++:7.6 mg/dL, Mg++:1.5 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   52M with metastatic prostate CA, recently in [**Hospital Unit Name 44**] with hypovolemic
   shock related to significant GU bleeding from radiation cystitis; now
   he returns with hypotension to SBP of 70s.  During episode of
   hypotension, he was mentating well and showed no signs of
   hypoperfusion.  Simultaneously he developed positive blood cultures
   with GPCs and presumed to have septic shock.  He received a 2.5L bolus
   with improvement of his blood pressure and upon transfer initially he
   has SBP in 100-110.  However, during his course he has had two episodes
   of brief SBP to 80's and has had another 1.5L fluid resucitation.  An
   arterial line was placed for continued hemodynamic monitoring.
   Past medical history:
    Family history:
    Social History:
   1.  Metastatic Prostate CA - liver and bone mets, radiation cystitis
   2.  Bilateral LE DVT, history of PE - IV Filter
   3. OSA
   4. History of duodenal ulcer
    Non-contributory
    Occupation:
   Assessment and Plan
   52M with metastatic prostate [**Last Name (un) **] with bone and liver mets, radiation
   cystitis, admitted with question of CNS bacteremia but more likely
   culture 1/4 bottles was contaminant. He continues to be hemodynamically
   more stable not requiring pressors.  Shock possibly due to sepsis vs
   adrenal insufficiency.
   1.        ID: Sepsis with GP bacteremia from line infection.
   Leukopenic. Currently on vancomycin and zosyn until can confirm blood
   culture data.  Lactate is normal, no large anion gap.  Has preserved
   urine output without signs of hypoperfusion.  Mentation is clear.
   Currently has PICC line.
   -          Continue Vancomycin; f/u culture data.
   -          new right IJ line.
   2.       Endocrine:  On dexamethasone chronically for pain control.
   -          Will place on stress dose steroids in the short term:
   hydrocortisone 50mg q8h, then can taper once stable.
   -          Follow-up cortisol stimulation test
   3.       Thrombocytopenia:  Possibly related to DIC, also related to
   production problem in setting of bony mets.
   4.       Anemia:  He has chronic anemia, related to his malignancy.  No
   signs of active bleeding.
             - Suspect dilutional and also chronic decreased production.
   being transfused.
   5.      Elevated liver enzymes - likely due to mets
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2170-10-26**] 06:24 AM
   Multi Lumen - [**2170-10-26**] 03:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :
   Total time spent: 34 minutes
   Patient is critically ill

2170-10-28 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2170-10-27**] 05:10 PM
   from his aline and central line
 CALLED OUT
   - Stopped vancomycin
   - Gave 1u PRBC
   - HCT 28.6, Platelets=22 at 4:45pm. Nothing done.
   - Lethargic during the day
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-10-26**] 05:00 AM
   Vancomycin - [**2170-10-27**] 08:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No complaints
 just wants to sleep.
   Flowsheet Data as of  [**2170-10-28**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 95 (94 - 105) bpm
   BP: 104/49(65) {95/43(59) - 126/65(84)} mmHg
   RR: 17 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 12 (10 - 14)mmHg
   Total In:
                                                                  1,515 mL
                                                                    163 mL
   PO:
                                                                    550 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    163 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                  3,000 mL
   Urine:
                                                                  3,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,515 mL
                                                                 -2,837 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   GEN: Lethargic but arousable.
   HEENT: Sclerae icteric. MMM, OP clear
   CV: Nl S1+S2, II/VI early systolic murmur best heard at LLSB
   Pulm: CTAB
   Abd: Soft, distended, +bs
   Ext: 1+ pittling edema bilaterally; pneumatic compression boots in
   place
   Labs / Radiology
   24 K/uL
   10.4 g/dL
   138 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.4 mEq/L
   10 mg/dL
   109 mEq/L
   139 mEq/L
   28.7 %
   2.1 K/uL
   ALT 118>153
   AST 245>292
   Alk phos 1092>1426
   Tbili 10.2>11.9
                            [**2170-10-26**]  04:39 AM
                            [**2170-10-26**]  03:49 PM
                            [**2170-10-27**]  04:33 AM
                            [**2170-10-27**]  04:47 PM
                            [**2170-10-28**]  03:15 AM
   WBC
   1.7
   1.9
   1.8
   2.4
   2.1
   Hct
   22.5
   28.2
   24.9
   28.6
   28.7
   Plt
   36
   37
   30
   22
   24
   Cr
   0.4
   0.5
   0.5
   0.6
   Glucose
   95
   125
   116
   138
   Other labs: PT / PTT / INR:16.1/28.0/1.4, ALT / AST:153/292, Alk Phos /
   T Bili:1426/11.9, Differential-Neuts:76.0 %, Band:8.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, LDH:363 IU/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.6
   mg/dL
   Micro:
   Blood culture ([**10-26**], [**10-27**])
 No growth to date
        Last (+) blood culture on [**10-24**] with coag (-) staph
   Catheter tip ([**10-26**])
 No growth to date
   Urine culture
 Final, yeast
   Assessment and Plan
   52 year old gentleman with metastatic prostate CA readmitted to the
   [**Hospital Unit Name 44**] for hypotension.
   # Hypotension: Patient with stable BP x48 hours.  During last admission
   to [**Hospital Unit Name 44**], patient was intermitently hypotensive attributed to blood
   loss. On initial transfer, BP was fluid responsive. Uncertain etiology
   at this point, but differential includes hypovolemia from blood loss,
   sepsis, and adrenal insufficiency.  Hematocrit this AM at 24.9;
   transfused 2 units since readmission to ICU. Hypotension unlikely to be
   secondary to blood loss given slow trend in hct.  He has blood cultures
   from [**10-24**] positive for coag negative staph, but [**1-12**] likely
   representing contamination.  Has not been febrile, tachycardic, or
   tachypneic, so sepsis is unlikely. Cosyntropic stimulation test
   0.3->2.8.
   - Taper steroid dose
   - Follow-up cultures
   - Antibiotics discontinued on [**2170-10-27**]
   - Monitor MAP, UOP, mentation and bolus as necessary
   # Altered mental status: Likely secondary to hepatic encephalopathy.
   LFTs continue to rise. Also may be secondary to pain medications. Waxes
   and wanes with no set time course.
   - Continue lactulose
   - Hold pain meds for lethargy/confusion
   # Metastatic Prostate cancer: Patient's cancer has been refractory to
   all therapies thus far. Metastatic to bone now w/ liver lesions
   concerning for mets.
   - F/u oncology recs
   # Leukopenia:  Longstanding, likely secondary to bone metastases.
   - Trend counts
   # Anemia/thromboyctopenia: Per onc, thought likely secondary to bony
   metastatic prostate cancer. Stable overnight after given 1U pRBCs
   - Recheck CBC this pm, transfuse for hct<25 and plt <10.
   - Check [**Hospital1 **]
   # Radiation cystitis: Improved after urologic procedure with formalin.
   - Cont oxybutinin
   - Cont urojet
   # Elevated liver function tests: Likely result of liver metastases.
   - Trend LFTs
   # OSA: Continue CPAP at night.
   # Chronic pain: Reports pain is currently adequately controlled.
   Continue methadone, IV morphine for breakthrough, gabapentin, and
   decadron.
   # H/O DVT/PE: Not anticoagulation candidate, has IVC filter which was
   placed [**2168**].
   # Depression: Continue celexa.
   # Pressure Ulcer: Stage II left ischial, continue duoderm and Allevyn
   foam dressing.
   # FEN:  Regular, replete lytes prn.
   # Access : IJ, arterial line
   - D/c arterial line before transfer to floor.
   # PPx: SCDs, PPI.
   # Code:  Full, confirmed with his oncologist
   # Dispo:  Called out - awaiting bed
   # Comm:  [**Name (NI) 16**] (wife) [**Telephone/Fax (1) 5836**]
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2170-10-26**] 06:24 AM
   Multi Lumen - [**2170-10-26**] 03:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-10-28 10:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M with metastatic prostate CA, recently in [**Hospital Unit Name 44**] with hypovolemic
   shock related to significant GU bleeding from radiation cystitis; now
   returns with hypotension, SBP of 70s.  During episode of hypotension,
   he was mentating well and showed no signs of hypoperfusion.
   Simultaneously he developed positive blood cultures with GPCs and
   presumed to have septic shock but only grew CNS in 1 of 4 bottles.  He
   received a 2.5L bolus with improvement of his blood pressure. During
   his course he has had two episodes of brief SBP to 80's and has had
   another 1.5L fluid resucitation.
   24 Hour Events:
   Transfused 1 unit PRBC
   No recurrent hypotension past 24 hours.
   ROS - fatigue, no pain
   Allergies:
   Ciprofloxacin
   Rash;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2170-10-26**] 05:00 AM
   Vancomycin - [**2170-10-27**] 08:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Vancomycin 1000mg q12h
   Megace, Folic Acid, PPI, CBI
   Methadone 10 qid  held, colace
   Gabapentin, Vitamin D, Celexa, Ditropan, Belladona opium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-10-28**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 93 (93 - 105) bpm
   BP: 102/48(64) {95/47(64) - 126/65(84)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 10 (9 - 14)mmHg
   Total In:
                                                                  1,515 mL
                                                                    401 mL
   PO:
                                                                    550 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    301 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                  2,450 mL
   Urine:
                                                                  2,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,515 mL
                                                                 -2,049 mL
   Respiratory support
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: lethargic but responsive
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Neurologic: Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, lethargic
   Labs / Radiology
   10.4 g/dL
   24 K/uL
   138 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.4 mEq/L
   10 mg/dL
   109 mEq/L
   139 mEq/L
   28.7 %
   1.7 K/uL
         [image002.jpg]
                            [**2170-10-26**]  04:39 AM
                            [**2170-10-26**]  03:49 PM
                            [**2170-10-27**]  04:33 AM
                            [**2170-10-27**]  04:47 PM
                            [**2170-10-28**]  03:15 AM
   WBC
   1.7
   1.9
   1.8
   2.4
   1.7
   Hct
   22.5
   28.2
   24.9
   28.6
   28.7
   Plt
   36
   37
   30
   22
   24
   Cr
   0.4
   0.5
   0.5
   0.6
   Glucose
   95
   125
   116
   138
   Other labs: PT / PTT / INR:16.1/28.0/1.4, ALT / AST:153/292, Alk Phos /
   T Bili:1426/11.9, Differential-Neuts:76.0 %, Band:8.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:106 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.5 g/dL, LDH:363 IU/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.6
   mg/dL
   Fluid analysis / Other labs: BC - no growth 10/17+18
   last positive [**10-24**] [**1-12**] bottle CNS
   Assessment and Plan
   52M with metastatic prostate cancer with bone and liver mets, radiation
   cystitis, admitted with question of CNS bacteremia which was more
   likely a contaminant with only 1/4 bottles positive. He continues to be
   hemodynamically more stable not requiring pressors.  Shock was possibly
   due to adrenal insufficiency.
   1.        Shock/ ID: question of CNS sepsis from line. Off vanco 24 hrs
   with no recurrence.
   -          F/u blood cultures. If spikes fever, would reculture and add
   back vancomycin.
   -          has new right IJ line.
   2.       Possible autonomic dysfunction:  was on dexamethasone
   chronically for pain control.
   -          was initiated on stress dose HC, will start taper today.
   -          [**Last Name (un) **] stim test without positive response but does not r/o
   AI.
   3.       Pancytopenia
   Thrombocytopenia:  likely a production problem in setting of bony mets,
   possibly related to DIC
    Anemia:  chronic anemia, related with no signs of active bleeding.  Hx
   of duodenal ulcer
    - Suspect dilutional and also chronic decreased production.
   4.      Elevated liver enzymes - likely due to mets
   5.      Hx of OSA
   6.      Bilat LE DVT, hx of PE
 IVC filter
   ICU Care
   Glycemic Control:
   Arterial Line - [**2170-10-26**] 06:24 AM
   Multi Lumen - [**2170-10-26**] 03:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : stable to transfer to floor
   Total time spent: 35 minutes, Patient is critically ill